US08022062B2
Use a method similar to the General Procedure 5-3, using 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine (426 mg, 1.0 mmol) and 2-aminoindane (400 mg, 3.0 mmol), to give 7-chloro-6-(indan-2-yl-amino)-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine as a slightly yellow oil (354 mg, 86%). MS (ES+) m/z: 409 (M+H)+.

reactant | 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 1.0 mmol, 426 mg | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)OS(=O)(=O)C(F)(F)F | C13H10ClF6NO4S
reactant | 2-aminoindane | 3.0 mmol, 400 mg | NC1CC2=CC=CC=C2C1 | C9H11N
product | 7-chloro-6-(indan-2-yl-amino)-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)NC1CC2=CC=CC=C2C1 | C21H20ClF3N2O
